Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ondansetron
 
Attending: ___
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ M PMH supraglottic larygneal squamous cell carcinoma 
undergoing chemoRT presenting with N/V. Recently pt treated with 
cisplatin and had severe resultant nausea so today was given a 
reduced dose as well as compazine. Despite these measures pt 
still had significant nasuea with vomiting and was referred to 
the ED. Of note pt recently admitted ___ for similar 
presentation of intractable n/v post-chemo. Today the pt denies 
diarrhea/abdominal pain/f/c. 
.
In the eD: AF/VSS. Lytes ok, lactate 0.8. wbc 2.7, hct 36.3, plt 
133. Pt given ivf, ativan, tylenol and admitted to OMED.
.
ROS: as above; otherwise complete ROS negative.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: noticed hoarseness
- Seen by Dr. ___ in ___ ENT in ___. An 
endoscopy showed a large mass in the supraglottic larynx.  
- ___: Biopsy showed squamous cell carcinoma in the 
supraglottic area.  There was also involvement of the epiglottis 
and the patient underwent further staging scan including a CT 
and a PET scan.  
- ___: PET scan confirmed the FDG-avid lesions, no
regional lymph nodes, but there was also some pre-epiglottic
extension and also uptake in the sixth rib and L4 of uncertain
significance
- ___: C1D1 Cisplatin with concurrent radiation
 
PAST MEDICAL HISTORY: Hemolytic anemia, prior knee scope.
 
Social History:
___
Family History:
Sister had breast and pancreatic cancer. 
 
Physical Exam:
t 97.5 bp 117/86 hr14 rr18 98%ra
NAD
eomi, perrl
neck supple
no ___
chest clear
rrr
abd soft, nt, G-tube inplace: dressing c/d/i
ext w/wp
neuro: non-focal
skin: no rash
 
Pertinent Results:
ADMISSION LABS:
___ 04:14PM   LACTATE-0.8
___ 04:10PM   GLUCOSE-139* UREA N-13 CREAT-0.7 SODIUM-134 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-26 ANION GAP-10
___ 04:10PM   WBC-1.6* RBC-3.77* HGB-11.9* HCT-34.0* MCV-90 
MCH-31.5 MCHC-34.9 RDW-12.6
___ 04:10PM   NEUTS-81.5* LYMPHS-15.6* MONOS-2.2 EOS-0.6 
BASOS-0.1
___ 04:10PM   PLT COUNT-131*
___ 08:00AM   UREA N-15 CREAT-0.9
___ 08:00AM   estGFR-Using this
___ 08:00AM   CALCIUM-9.3 MAGNESIUM-2.0
___ 08:00AM   WBC-2.7* RBC-3.87* HGB-12.0* HCT-36.3* MCV-94 
MCH-31.1 MCHC-33.0 RDW-12.5
___ 08:00AM   PLT COUNT-134*
___ 08:00AM   ___ ___

DISCHARGE LABS:
___ 06:30AM BLOOD WBC-2.2* RBC-3.63* Hgb-11.4* Hct-33.7* 
MCV-93 MCH-31.4 MCHC-33.9 RDW-12.5 Plt ___
___ 06:30AM BLOOD Neuts-78.5* Lymphs-13.6* Monos-7.5 
Eos-0.2 Baso-0.2
___ 06:30AM BLOOD Glucose-105* UreaN-15 Creat-0.7 Na-137 
K-4.1 Cl-103 HCO3-28 AnGap-10

MICROBIOLOGY:
___ 4:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
Brief Hospital Course:
___ yo M with supraglottic squamous cell CA admitted post-chemo 
with intractable nausea and vomiting.
.
Nausea/vomiting: ___ chemo. No clinical suspcicion for infection 
or obstruction. given IVF hydration and IV anti-emetics with 
rapid improvement. Tolerating POs prior to discharge. Instructed 
to continue PO anti-emetics standing for two more days then 
resume PRN dosing. Will f/u with outpatient oncology within one 
week.

Cellulitis: G-tube site, diagnosed outpatient and started on 
Keflex. Per patient improving. Continue Keflex as previously 
planned.

Supraglottic laryngeal squamous cell CA: on chrmo/XRT. Follow up 
with oncology within one week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cephalexin 250 mg PO Q6H 
2. Dexamethasone 8 mg PO Q12H 
3. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN pain 
4. Lorazepam 0.5 mg PO Q4H:PRN n/v 
5. Nystatin Oral Suspension 5 mL PO QID 
6. OLANZapine (Disintegrating Tablet) 5 mg PO BID:PRN n/v 
7. Prochlorperazine 10 mg PO Q6H:PRN n/v 

 
Discharge Medications:
1. Cephalexin 250 mg PO Q6H 
2. Dexamethasone 8 mg PO Q12H 
3. Lorazepam 0.5 mg PO Q4H:PRN n/v 
4. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN pain 
5. Nystatin Oral Suspension 5 mL PO QID 
6. OLANZapine (Disintegrating Tablet) 5 mg PO BID n/v 
7. Prochlorperazine 10 mg PO Q6H n/v 
8. Pantoprazole 20 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chemotherapy related emesis
Supraglottic laryngeal squamous cell CA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted with nausea and vomiting, likely related to 
your chemotherapy. You were given medications for nausea with 
improvement. You should take your nausea medications (olanzapine 
and prochlorperazine) standing until ___. Thereafter, you can 
resume taking them only as needed.
 
Followup Instructions:
___